plaintext
* SPICE netlist for the given schematic

VDD 2 0 DC 1.8V
I1 4 0 DC 0.5mA

RD1 X 2 10k
RD2 Y 2 10k

CF1 1 X 1pF
CF2 Y 2 1pF

M1 Y 1 3 3 NMOS L=180n W=1u
M2 2 Y 3 3 NMOS L=180n W=1u

V1 1 0 AC 1V
V2 2 0

.END